US06599917B1
c) 3-Benzyl-5-(2-ethoxycarbonylethyl)-2-methoxypyridine
A mixture of 950 mg of 3-benzyl-5-(2-ethoxycarbonylethenyl)-2-methoxypyridine, 90 mg of 10% palladium carbon and 10 ml of ethanol was stirred at room temperature for one hour in a hydrogen atmosphere. After the atmosphere in the system was replaced by nitrogen, the mixture was filtered through Celite. The solvent was removed, to give 950 mg of the target compound.

reactant | 3-benzyl-5-(2-ethoxycarbonylethenyl)-2-methoxypyridine | 950 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)C=CC(=O)OCC)OC | C18H19NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 90 mg | [C].[Pd]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Benzyl-5-(2-ethoxycarbonylethyl)-2-methoxypyridine | 950 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)CCC(=O)OCC)OC | C18H21NO3
